US04599344
2-[3-(4-Chlorophenyl)propyl]-1-azabicyclo[2.2.2]octan-3-one hydrochloride
To 3.30 g (0.136 mole) magnesium turnings in 50 ml anhydrous diethyl ether under nitrogen, add 28.6 g (0.13 mole) p-chlorophenethyl bromide slowly. Allow the reaction mixture to reflux gently with mechanical stirring for 11/2 hours. Chill the reaction mixture on an ice/MeOH bath and add 1.29 g (0.013 mole) copper (I) chloride. Suspend 10.3 g (0.067 mole) 2-methylene-3-quinuclidinone in 30 ml diethyl ether and add dropwise to the chilled reaction mixture. Heat to reflux for an additional 2 hours. Follow progress of the reaction by thin-layer chromatography on silica gel (methanol:NH4OH, 9:1). When complete, quench the cooled reaction mixture with 25 ml saturated ammonium chloride solution. Filter the 2-phase reaction mixture and separate the layers. Wash the aqueous phase with 1×50 ml diethyl ether. Combine diethyl ether layers and dry over potassium carbonate. Remove solvents in vacuo to obtain the free base of the title compound. Dissolve the residue in 25 ml diethyl ether and acidify with HCl gas. Collect the title compound via filtration.

reactant | magnesium | 0.136 mole, 3.30 g | [Mg] | Mg
reactant | p-chlorophenethyl bromide | 0.13 mole, 28.6 g | ClC1=CC=C(CCBr)C=C1 | C8H8BrCl
reactant | 2-methylene-3-quinuclidinone | 0.067 mole, 10.3 g | C=C1N2CCC(C1=O)CC2 | C8H11NO
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
catalyst | copper (I) chloride | 0.013 mole, 1.29 g | [Cu]Cl
product | 2-[3-(4-Chlorophenyl)propyl]-1-azabicyclo[2.2.2]octan-3-one hydrochloride | Cl.ClC1=CC=C(C=C1)CCCC1N2CCC(C1=O)CC2 | InChI=1S/C16H20ClNO.ClH/c17-14-6-4-12(5-7-14)2-1-3-15-16(19)13-8-10-18(15)11-9-13;/h4-7,13,15H,1-3,8-11H2;1H
